US09193725B2
To a stirred solution of 1-methyl-5-(pyridin-2-yl)-1,4-dihydropyrimido[4,5-c]pyridazine (100 mg) in dry THF (5.0 mL), sodium borohydride (84 mg) was slowly added, followed by boric acid (137 mg) under nitrogen atmosphere at 0° C. The reaction mixture was stirred at room temperature for 2 hours and solvents were removed under reduced pressure. The resulting oil was diluted with dichloromethane (50 mL), washed with 10% NaHCO3 (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated to give a residue which was purified by column chromatography using MeOH/CHCl3 (0.5:9.5) as eluent to afford 1-methyl-5-(pyridin-2-yl)-1,2,3,4-tetrahydropyrimido[4,5-c]pyridazine (35 mg) as white solid. 1H NMR (DMSO-d6): δ 2.92-2.93 (m, 4H), 3.22 (s, 3H), 5.49 (t, 1H), 7.41-7.44 (t, 1H), 7.90-7.92 (m, 2H), 8.38 (s, 1H), 8.62-8.64 (d, 1H).

reactant | 1-methyl-5-(pyridin-2-yl)-1,4-dihydropyrimido[4,5-c]pyridazine | 100 mg | CN1N=CCC2=C1N=CN=C2C2=NC=CC=C2 | C12H11N5
reactant | sodium borohydride | 84 mg | [BH4-].[Na+]
reactant | boric acid | 137 mg | B(O)(O)O | BH3O3
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 1-methyl-5-(pyridin-2-yl)-1,2,3,4-tetrahydropyrimido[4,5-c]pyridazine | 35 mg | CN1NCCC2=C1N=CN=C2C2=NC=CC=C2 | C12H13N5
